US04434175
A mixture of 1.87 g (5 mmole) of 1,4-dimethyl-3-hydroxycarbonyl-5-(1-methyl-5-trifluoromethylpyrrol-2-oyl)pyrrole-2-acetic acid is heated together with 10 ml trifluoroacetic acid at 80° C. for thirty minutes. TFA is removed in vacuo. The residue is crystallized from ethyl acetate/hexane. After drying, 1.1 g of 1,4-dimethyl-5-(1-methyl-5-trifluoromethylpyrrol-2-oyl)pyrrole-2-acetic acid is obtained.

reactant | 1,4-dimethyl-3-hydroxycarbonyl-5-(1-methyl-5-trifluoromethylpyrrol-2-oyl)pyrrole-2-acetic acid | 5 mmole, 1.87 g | CN1C(=C(C(=C1C(=O)C=1N(C(=CC1)C(F)(F)F)C)C)C(=O)O)CC(=O)O | C16H15F3N2O5
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1,4-dimethyl-5-(1-methyl-5-trifluoromethylpyrrol-2-oyl)pyrrole-2-acetic acid | 1.1 g | CN1C(=CC(=C1C(=O)C=1N(C(=CC1)C(F)(F)F)C)C)CC(=O)O | C15H15F3N2O3
